US08293768B2
Synthesis of 2-(3-((5-(difluoromethyl)furan-2-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-((5-(difluoromethyl)furan-2-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a white powder in 59% yield: mp 142-143° C. (diethyl ether); 1H NMR (300 MHz, CDCl3) δ 8.60-8.53 (m, 1H), 8.51-8.44 (m, 1H), 7.72-7.62 (m, 1H), 7.28-7.19 (m, 1H), 6.59-6.57 (m, 1H), 6.54 (t, JH-F=54.2 Hz, 1H), 6.33-6.59 (m, 1H), 4.56 (d, J=5.8 Hz, 2H), 4.46 (s, 2H), 4.10-4.03 (m, 2H), 3.61-3.53 (m, 2H), 2.57 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.6, 157.2, 155.1, 153.5, 151.4, 149.2, 148.8, 135.6, 133.9, 123.6, 117.1, 111.3, 109.7, 108.1, 105.0, 42.3, 42.0, 41.3, 40.4, 17.2; MS (ES+) m/z 448.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 2-(3-((5-(difluoromethyl)furan-2-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC(C1=CC=C(O1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O)F | C14H13F2N3O4S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 2-(3-((5-(difluoromethyl)furan-2-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 59% yield | FC(C1=CC=C(O1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O)F | C20H19F2N5O3S
